US04900836
α-[(Dimethylamino)methylene]-β-oxo-2-furanepropanenitrile
A 50 ml portion of dimethylformamide dimethylacetal was added to 25 g of solid β-oxo-2-furanepropanenitrile. This exothermic reaction produced yellow crystals. After one hour the volatiles were removed under reduced pressure and the residue was dissolved in methylene chloride. This solution was passed through a short pad of hydrous magnesium silicate. The eluate was refluxed with the gradual addition of hexane to the point of turbidity. Cooling and filtration gave 35.2 g of the desired compound, mp 117°-125° C.

reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | β-oxo-2-furanepropanenitrile | O=C(CC#N)C=1OC=CC1 | C7H5NO2
product | α-[(Dimethylamino)methylene]-β-oxo-2-furanepropanenitrile | 35.2 g | CN(C)C=C(C#N)C(C=1OC=CC1)=O | C10H10N2O2
